US06015818
To a suspension of 4-formyl-2-methoxybenzoic acid obtained above in tetrahydrofuran was added methyl (triphenylphosphoranylidene)acetate (3.3 g) at ambient temperature, and the mixture was stirred for 1 hour at the same temperature. The mixture was concentrated in vacuo, and ethyl acetate and saturated sodium bicarbonate solution were added thereto. The separated aqueous layer was adjusted to pH 4 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with hot diisopropyl ether to give methyl 4-carboxy-3-methoxycinnamate (1.2 g).

reactant | 4-formyl-2-methoxybenzoic acid | C(=O)C1=CC(=C(C(=O)O)C=C1)OC | C9H8O4
reactant | methyl (triphenylphosphoranylidene)acetate | 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-carboxy-3-methoxycinnamate | 1.2 g | C(=O)(O)C1=C(C=C(C=CC(=O)OC)C=C1)OC | C12H12O5
